US08709747B2
To a solution of 4,4′-(9,9-dibutyl-9H-fluorene-2,7-diyl)bis(2-methyl-3-butyn-2-ol) (1.04 g, 2.35 mmol) in 20 mL of toluene/i-PrOH (3/1), was added solid KOH (0.39 g). The mixture was heated under reflux for 0.5 h. After cooling, KOH was filtered off and the solvents were evaporated and the residue was purified by column chromatography (heptane/CH2Cl2 70:30 then 20:80) to yield 0.54 g (71%) of 2,7-diethynyl-9,9-dibutyl-9H-fluorene: 1H NMR (200.13 MHz, CDCl3) δ 7.63 (d, J=8.6 Hz, 2H), 7.48 (d, J=8.6 Hz, 2H), 7.46 (s, 2H), 3.15 (s, 2H), 1.94 (m, 4H), 1.07 (m, 4H), 0.67 (t, J=7.2 Hz, 6H), 0.54 (m, 4H); 13C NMR (50.32 MHz, CDCl3) δ 151.0, 140.9, 131.2, 126.5, 120.8, 119.9, 84.5, 77.4, 55.1, 40.0, 25.8, 22.9, 13.7; HRMS (EI) calcd for C25H26 (M+·) m/z 326.2035. found 326.2036. Anal. Calcd for C25H26 (326.48): C, 91.97; H, 8.03. Found: C, 92.17; H, 8.07.

reactant | 4,4′-(9,9-dibutyl-9H-fluorene-2,7-diyl)bis(2-methyl-3-butyn-2-ol) | 2.35 mmol, 1.04 g | C(CCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC(C)(O)C)C#CC(C)(O)C)CCCC | C31H38O2
reactant | KOH | 0.39 g | [OH-].[K+]
solvent | toluene i-PrOH | 20 mL | C1(=CC=CC=C1)C.CC(C)O
product | 2,7-diethynyl-9,9-dibutyl-9H-fluorene | 0.54 g, 71% | C(#C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C)(CCCC)CCCC | C25H26
